US08580762B2
Step 2. (1R,2S,3R,5R)-3-{4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-5-({[(3-{[6-chloro-5-(trifluoromethyl)-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl](propan-2-yl)amino}methyl)cyclopentane-1,2-diol
12N HCl (1.5 ml) was added slowly to a solution of 7-[(3aS,4R,6R,6aR)-6-({[(3-{[6-chloro-5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl](propan-2-yl)amino}methyl)-2,2-dimethyl-hexahydrocyclopenta[d][1,3]dioxol-4-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (174 mg, 0.22 mmol) in MeOH (1.5 ml) and stirred at 40° C. for 6 h. The reaction was monitored by LCMS, no starting material seen after 2.5 h. The reaction mixture was concentrated in vacuo, then basified with 7N NH3 in MeOH (5 ml). This was then evaporated to dryness. Purification by silica gel column chromatography, eluting with 7N NH3 in MeOH:DCM (1:9) gave the desired product (36 mg, 27%) as a white solid; MS (ESI+) for C29H35ClF3N7O2 m/z 606.30 [M+H]+; HPLC purity 100% (ret. time, 2.59 min); 1H NMR (500 MHz, MOD) δH ppm 0.93-1.09 (6 H, m), 1.41-1.64 (2 H, m), 1.76-2.06 (1 H, m), 2.15-2.65 (9 H, m), 2.65-2.88 (1 H, m), 2.91-3.13 (3 H, m), 3.80-4.09 (1 H, m), 4.19-4.46 (1 H, m), 4.88-4.94 (1 H, m), 6.46-6.77 (1 H, m), 7.19 (1 H, d, J=3.63 Hz), 7.69 (1 H, s), 7.89 (1 H, s), 8.06 (1 H, s)

reactant | HCl | 12N, 1.5 ml | Cl | ClH
reactant | 7-[(3aS,4R,6R,6aR)-6-({[(3-{[6-chloro-5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl](propan-2-yl)amino}methyl)-2,2-dimethyl-hexahydrocyclopenta[d][1,3]dioxol-4-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.22 mmol, 174 mg | ClC=1C(=CC2=C(N(C(=N2)CC2CC(C2)CN(C(C)C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2N)COCC[Si](C)(C)C)C1)C(F)(F)F | C38H53ClF3N7O3Si
solvent | MeOH | 1.5 ml | CO | CH4O
product | (1R,2S,3R,5R)-3-{4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-5-({[(3-{[6-chloro-5-(trifluoromethyl)-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl](propan-2-yl)amino}methyl)cyclopentane-1,2-diol | 36 mg, 27% | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C(C)C)CC2CC(C2)CC2=NC1=C(N2)C=C(C(=C1)C(F)(F)F)Cl)O)O | C29H35ClF3N7O2
